US05470851
1-[2-(Diphenylmethoxy)ethyl]piperazine
Following a procedure similar to that described in Preparation 5(c), but using 2-(diphenylmethoxy)ethyl chloride and anhydrous piperazine, the title compound was obtained in a yield of 75%.

reactant | 2-(diphenylmethoxy)ethyl chloride | C1(=CC=CC=C1)C(OCCCl)C1=CC=CC=C1 | C15H15ClO
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-[2-(Diphenylmethoxy)ethyl]piperazine | yield of 75% | C1(=CC=CC=C1)C(OCCN1CCNCC1)C1=CC=CC=C1 | C19H24N2O
